US05989905
GlyAla;
AspGlu; ValIleLeu;

reactant | AspGlu | N[C@@H](CC(O)=O)C(=O)N[C@@H](CCC(O)=O)C(=O)O | C9H14N2O7
reactant | ValIleLeu | N[C@@H](C(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(C)C)C(=O)O | C17H33N3O4
product | GlyAla | NCC(=O)N[C@@H](C)C(=O)O | C5H10N2O3
